US04749791
701 g (3 mol) of 1-(6-chloro-3,4-dihydro-2-naphthyl)pyrrolidine and 640 g (19 mol) of acrylamide in 7 ml of ethanol were boiled under reflux for 3 days with the addition of 70 g of Amberlite IR200. The separated solid was filtered off. Extractive crystallization with dioxan gave 8-chloro-1,4,5,6-tetrahydrobenzo[f]-quinolin-3(2H)-one of melting point 228°-230° C.

reactant | 1-(6-chloro-3,4-dihydro-2-naphthyl)pyrrolidine | 3 mol, 701 g | ClC=1C=C2CCC(=CC2=CC1)N1CCCC1 | C14H16ClN
reactant | acrylamide | 19 mol, 640 g | C(C=C)(=O)N | C3H5NO
solvent | ethanol | 7 ml | C(C)O | C2H6O
product | 8-chloro-1,4,5,6-tetrahydrobenzo[f]-quinolin-3(2H)-one | ClC1=CC2=C(C=3CCC(NC3CC2)=O)C=C1 | C13H12ClNO
